US07456309B2
CPG (500 A, 1 g) was treated with a solution of 3-mercaptopropyltriethoxysilane (2%, v/v) in toluene for 2 h at 60° C. Then the support was recovered on a sintered disc glass funnel and washed extensively with toluene (3×25 ml) and diethylether (3×25 ml), respectively. In the subsequent reaction, mercaptopropylated polymer support was reacted with 2,2′-dithiobis(5-nitropyridine) (DTNP) (5 mmol) in chloroform containing triethylamine (5 mmol) for 4 h with continuous shaking at room temperature. The support was again recovered on a sintered funnel and thoroughly washed with chloroform, methanol and diethylether (3×25 ml of each) to get rid of excess of reagent and 5-nitropyridine-2-thione. Activated polymer support was subsequently treated with O-(4,4′-dimethoxytrityl)-2-mercaptoethanol (2.5 mmol) in dichloroethane containing triethylamine (0.5%, v/v). The suspension was agitated for 2 h at room temperature and then the excess of reagents were removed by filtration on a sintered disc glass funnel followed by washing of the support with dichloroethane (3×25 ml) containing triethylamine (0.5%, v/v). The support was dried and loading on the polymer support was determined by perchloric acid method (Gait, Oligonucleotide Synthesis: A Practical Approach; IRL Press, Oxford, 1984).

reactant | 3-mercaptopropyltriethoxysilane | SCCC[Si](OCC)(OCC)OCC | C9H22O3SSi
reactant | 2,2′-dithiobis(5-nitropyridine) | 5 mmol | [N+](=O)([O-])C=1C=CC(=NC1)SSC1=NC=C(C=C1)[N+](=O)[O-] | C10H6N4O4S2
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-nitropyridine-2-thione | [N+](=O)([O-])C=1C=CC(NC1)=S | C5H4N2O2S
